US04081477
33 g of (+)-3-formylpinane, 14 g of pyrrolidine and 70 g of formic acid are heated under reflux for 12 hours. Excess formic acid is then distilled off and the residue is boiled with 150 g of 25% strength aqueous potassium hydroxide solution. The amine separates out as the upper phase and is separated off and purified by fractional distillation. 31.8 g of (+)-3-pyrrolidinomethylpinane boiling at from 125° to 127° C/5 mm Hg are obtained.

reactant | (+)-3-formylpinane | 33 g | C(=O)C1C(C2C(C(C1)C2)(C)C)C | C11H18O
reactant | pyrrolidine | 14 g | N1CCCC1 | C4H9N
solvent | formic acid | 70 g | C(=O)O | CH2O2
product | (+)-3-pyrrolidinomethylpinane | 31.8 g | N1(CCCC1)CC1C(C2C(C(C1)C2)(C)C)C | C15H27N
